US04837217
To 20 ml of N,N-dimethylformamide were added 2.1 g of 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone, 2.5 g of 5-chloromethyl-2-(4-chlorophenoxy)-pyridine and 1.5 g of potassium carbonate, and the mixture was stirred at 80° to 90° C. for 2 hours. After cooling, the reaction mixture was poured into 50 ml of water and extracted twice with 50 ml of benzene. The organic layer was washed with water, dried over anhydrous sodium sulfate and then freed of solvent by distillation under reduced pressure to obtain 3.9 g of a crude product. The crude product was added with a mixed solvent of isopropyl ether and 2-propanol and recrystallized therefrom to give 3.3 g of 2-t-butyl-4-chloro-5-[{6-(4-chlorophenoxy)-3-pyridyl}methyloxy]-3(2H)-pyridazinone, m.p. 150.0°~154.5° C.

reactant | 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone | 2.1 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)O | C8H11ClN2O2
reactant | 5-chloromethyl-2-(4-chlorophenoxy)-pyridine | 2.5 g | ClCC=1C=CC(=NC1)OC1=CC=C(C=C1)Cl | C12H9Cl2NO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-chloro-5-[{6-(4-chlorophenoxy)-3-pyridyl}methyloxy]-3(2H)-pyridazinone | 3.3 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC=1C=NC(=CC1)OC1=CC=C(C=C1)Cl | C20H19Cl2N3O3
